US05021446
Ten grams (0.072 mole) of 3-hydroxy-6,6-dimethylhept-1-ene-4-yne was dissolved in 100 ml of hexane, and to the resulting solution were added 50 mg (6.8×10-4 mole) of N,N-dimethylformamide and 12.80 g (0.108 mole) of thionyl chloride. The mixture was reacted overnight at room temperature with stirring with a hydrogen chloride gas trap mounted on the reactor. The reaction mixture was concentrated under reduced pressure to obtain 10 g of a crude 1-chloro-6,6-dimethylhept-2-ene-4-yne.

reactant | 3-hydroxy-6,6-dimethylhept-1-ene-4-yne | 0.072 mole, Ten grams | OC(C=C)C#CC(C)(C)C | C9H14O
reactant | thionyl chloride | 0.108 mole, 12.80 g | S(=O)(Cl)Cl | Cl2OS
solvent | hexane | 100 ml | CCCCCC | C6H14
catalyst | N,N-dimethylformamide | 6.8×10-4 mole, 50 mg | CN(C=O)C | C3H7NO
product | 1-chloro-6,6-dimethylhept-2-ene-4-yne | 10 g | ClCC=CC#CC(C)(C)C | C9H13Cl
